US06124323
1-[2-(4-Hydroxy-3-fluorophenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride
The title compound was prepared from 4-(4-methylbenzyl)piperidine hydrochloride (347 mg, 1.54 mmol), 2-(4-benzoxy-3-fluorophenoxy)ethyl bromide (499 mg, 1.54 mmol) and potassium carbonate (531 mg, 3.85 mmol) in two steps as white-off solid (272 mg): mp 148-150° C. 1H NMR (CD3OD) 1.38 (m, 2 H), 1.699 (m, 3 H), 2.100 (s, 3 H), 2.375(d, J=6.3 Hz, 2 H), 2.834 (m, 2 H), 3.307 (m, 2 H), 3.427 (d, J=11.7 Hz, 2 H), 4.078 (t, J=4.8 Hz, 2 H), 6.48 (m, 1 H), 6.638 (m, 2 H), 6.844 (m, 4 H). Anal. Calcd for C21H27ClFNO2.0.3H2O: C, 65.45; H, 7.22; N, 3.64. Found: C, 65.54; H, 7.15; N, 3.60.

reactant | 4-(4-methylbenzyl)piperidine hydrochloride | 1.54 mmol, 347 mg | Cl.CC1=CC=C(CC2CCNCC2)C=C1
reactant | 2-(4-benzoxy-3-fluorophenoxy)ethyl bromide | 1.54 mmol, 499 mg | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)F | C15H14BrFO2
reactant | potassium carbonate | 3.85 mmol, 531 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(4-Hydroxy-3-fluorophenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride | Cl.OC1=C(C=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)C)C=C1)F | InChI=1S/C21H26FNO2.ClH/c1-16-2-4-17(5-3-16)14-18-8-10-23(11-9-18)12-13-25-19-6-7-21(24)20(22)15-19;/h2-7,15,18,24H,8-14H2,1H3;1H
